US08877780B2
3,4-Dichlorophenylisocyanate (0.19 g, 1.0 mmol) was a added to a mixture of 3-(5-(aminomethyl)-1-oxoisoindolin-2-yl)piperidine-2,6-dione hydrochloride (0.31 g, 1.0 mmol) in DMF (20 mL), followed by dropwise addition of triethylamine (0.31 mL). After 1 h, water (20 mL) was added. The solid precipitate was filtered and washed with 4% aqueous HCl, and dried in vacuo providing 1-(3,4-dichloro-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea as a white solid (0.43 g, 60% yield); mp 238-240° C.; HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 ml/min, 240 nm, 40/60 CH3CN/0.1% H3PO4. 7.87 (99.70%) 1H NMR (DMSO-d6) δ 1.98-2.01 (m, 1H), 2.33-2.46 (m, 1H), 2.57-2.62 (m, 1H), 2.86-3.00 (m, 1H), 4.34 (d, 1H, J=17.4), 4.35-4.79 (m, 3H), 5.11 (dd, 1H, J=13.2, J=5.4), 6.93 (t, 1H, J=5.7), 7.27 (dd, 1H, J=8.7, J=2.4), 7.46 (m, 3H), 7.70 (d, 1H, J=7.8), 7.86 (d, 1H, J=2.1), 9.00 (s, 1H), 10.97 (s, 1H). 13C NMR (DMSO-d6) δ 22.5, 31.2, 42.8, 47.1, 51.5, 117.8, 118.9, 121.9, 122.3, 122.9, 123.0, 127.0, 130.3, 130.9, 140.6, 142.4, 144.5, 154.9, 167.9, 171.0, 172.9. Anal. Calcd for C21H18Cl2N4O4+0.9 CH2Cl2: C, 48.92; H, 3.71; N, 10.42. Found: C, 48.87; H, 3.48; N, 10.73.

reactant | 3,4-Dichlorophenylisocyanate | 1.0 mmol, 0.19 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | 3-(5-(aminomethyl)-1-oxoisoindolin-2-yl)piperidine-2,6-dione hydrochloride | 1.0 mmol, 0.31 g | Cl.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | triethylamine | 0.31 mL | C(C)N(CC)CC | C6H15N
reactant | water | 20 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(3,4-dichloro-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea | 0.43 g, 60% yield | ClC=1C=C(C=CC1Cl)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C21H18Cl2N4O4
